* Schematics Netlist *



V_Vin         $N_0001 0   
R_RC1         $N_0003 $N_0002 Rbreak 1k
R_RC2         Vout $N_0002 Rbreak 1k
V_VCC         0 $N_0002 5V
R_RB1         $N_0004 $N_0001 Rbreak 1k
R_RB2         $N_0005 $N_0003 Rbreak 1k
Q_Q1         $N_0003 $N_0004 0 QbreakN-X 
Q_Q2         Vout $N_0005 0 QbreakN-X 
