* Schematics Netlist *



V_V5         $N_0001 0 DC 5  
V_V10         $N_0002 0 DC 5  
M_M2         $N_0001 $N_0002 Vout $N_0001 MbreakP-X  
+ L=1u  
+ W=10u         
M_M1         Vout $N_0002 0 0 MbreakN-X1  
+ L=1u  
+ W=10u         
